US09120770B2
Intermediate 8. 3-(Chloromethyl)-5-(3-chlorophenyl)-6-methoxy-2-methylpyridine
(5-(3-Chlorophenyl)-6-methoxy-2-methylpyridin-3-yl)methanol. To a solution of 5-(3-chlorophenyl)-6-methoxy-2-methylnicotinaldehyde (350 mg, 1.34 mmol) in methanol (3 mL) was added sodium borohydride (52 mg, 1.3 mmol). The solution was stirred at room temperature for 20 minutes then concentrated under reduced pressure. Purification (FCC, SiO2, 0-50%, EtOAc/hexanes) afforded the title compound (322 mg, 91%). [M+H]=264.06.

reactant | (5-(3-Chlorophenyl)-6-methoxy-2-methylpyridin-3-yl)methanol | ClC=1C=C(C=CC1)C=1C=C(C(=NC1OC)C)CO | C14H14ClNO2
reactant | 5-(3-chlorophenyl)-6-methoxy-2-methylnicotinaldehyde | 1.34 mmol, 350 mg | ClC=1C=C(C=CC1)C=1C(=NC(=C(C=O)C1)C)OC | C14H12ClNO2
reactant | sodium borohydride | 1.3 mmol, 52 mg | [BH4-].[Na+]
solvent | methanol | 3 mL | CO | CH4O
product | 3-(Chloromethyl)-5-(3-chlorophenyl)-6-methoxy-2-methylpyridine | 322 mg, 91% | ClCC=1C(=NC(=C(C1)C1=CC(=CC=C1)Cl)OC)C | C14H13Cl2NO
